US08669266B2
(i) (S)-4-Benzylcarbamoyl-2-tert-butoxycarbonylamino-butyric acid benzyl ester
To a solution of 10.00 g (S)-2-tert-butoxycarbonylamino-pentanedioic acid 1-benzyl ester in 80 ml DMF were added 5.85 g EDC, 4.67 g HOBt, 10.8 ml DIPEA and 3.2 ml benzylamine at 0° C. After stirring for 12 h the reaction mixture was concentrated, the residue was dissolved in dichloromethane and subsequently extracted with aqueous LiCl (4%), 0.1 M HCl and saturated aqueous NaHCO3. The crude product obtained after evaporation of the solvent was purified by flash chromatography on silica using ethyl acetate/heptane 1:1 as eluent. Yield: 11.2 g colorless amorphous solid.

reactant | (S)-2-tert-butoxycarbonylamino-pentanedioic acid 1-benzyl ester | 10.00 g | C(C1=CC=CC=C1)OC([C@H](CCC(=O)O)NC(=O)OC(C)(C)C)=O | C17H23NO6
reactant | HOBt | 4.67 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 10.8 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | benzylamine | 3.2 ml | C(C1=CC=CC=C1)N | C7H9N
solvent | DMF | 80 ml | CN(C)C=O | C3H7NO
solvent | EDC | 5.85 g
product | (S)-4-Benzylcarbamoyl-2-tert-butoxycarbonylamino-butyric acid benzyl ester | C(C1=CC=CC=C1)OC([C@H](CCC(NCC1=CC=CC=C1)=O)NC(=O)OC(C)(C)C)=O | C24H30N2O5
